US05654307
Reaction of 5-amino-2-fluoropyridine-4-carboxylic acid with formamide at 140° C. as above gave 6-fluoro-3H-pyrido[3,4-d]pyrimidin-4-one (~20%). 1H NMR (DMSO) δ 12.48 (1H, m), 8.74 (1H, s), 8.16 (1H, s), 7.63 (1H, d, J=3 Hz).

reactant | 5-amino-2-fluoropyridine-4-carboxylic acid | NC=1C(=CC(=NC1)F)C(=O)O | C6H5FN2O2
reactant | formamide | C(=O)N | CH3NO
product | 6-fluoro-3H-pyrido[3,4-d]pyrimidin-4-one | ~20% | FC1=CC2=C(N=CNC2=O)C=N1 | C7H4FN3O
